US07101871B2
Step B: tert-Butyl Hexahydro-3-oxo-1H-1,4-diazepine-1-carboxylate
To a solution of methyl N-(3-aminopropyl)-N-(tert-butoxycarbonyl)glycinate (10.2 g) in tetrahydrofuran (THF)/methanol (2/1, 300 mL) was added 1M aqueous lithium hydroxide solution (60 mL). The resultant mixture was stirred at room temperature overnight. An additional 20 mL of 1M aqueous lithium hydroxide solution was added and the mixture was stirred for 6 h. Solvent was removed under reduced pressure, and the residue was dissolved in 50 mL of methanol and 200 mL of toluene and concentrated in vacuo. To the residue in dichloromethane (300 mL) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (EDC, 9.6 g) and 1-hydroxybenzotriazole (HOBT, 6.8 g). The mixture was stirred at room temperature for three days, then treated with saturated aqueous ammonium chloride solution and extracted with three portions of ethyl acetate. The combined organics were washed with brine, dried over sodium sulfate and concentrated. The residue was purified by chromatography (silica gel, 4 to 5% methanol/aqueous ammonium hydroxide (10:1) in dichloromethane) to yield the title compound. LS/MS 215.0 (M+1).

reactant | methyl N-(3-aminopropyl)-N-(tert-butoxycarbonyl)glycinate | 10.2 g | NCCCN(CC(=O)OC)C(=O)OC(C)(C)C | C11H22N2O4
reactant | lithium hydroxide | 1M, 60 mL | [OH-].[Li+]
reactant | lithium hydroxide | 1M, 20 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | tert-Butyl Hexahydro-3-oxo-1H-1,4-diazepine-1-carboxylate | O=C1CN(CCCN1)C(=O)OC(C)(C)C | C10H18N2O3
